US05328637
2.5 g of potassium tert.butylate are added to a solution of 4.3 g of crude 1-[4-(4-pentylphenyl)-phenyl]-2,3-difluoro-4-(1,2-dibromopropyl)-benzene in 200 ml of tert.butyl methyl ether and the reaction mixture is heated at reflux temperature for 4.5 hours. Thereafter, it is cooled, treated with 50 ml of water and partitioned between water and diethyl ether. The combined organic phases are dried over anhydrous magnesium sulphate, the solvent is evaporated and the residue is chroma-tograped on silica gel with 5% ethyl acetate in petroleum ether. Filtration over Alox (CAMAG, neutral, activity grade 1) and fractional crystallization from ethyl acetate gives 2.04 g of 1-[4-(4-pentylphenyl)-phenyl]-2,3-difluoro-4-(1-propynyl)-benzene, m.p. (C-SB) 135.7° C.; SB -N 173° C.; cl.p. (N-I) about 210° C.

reactant | 1-[4-(4-pentylphenyl)-phenyl]-2,3-difluoro-4-(1,2-dibromopropyl)-benzene | 4.3 g | C(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=C(C=C1)C(C(C)Br)Br)F)F | C26H26Br2F2
reactant | water | 50 ml | O | H2O
solvent | tert.butyl methyl ether | 200 ml | COC(C)(C)C | C5H12O
product | 1-[4-(4-pentylphenyl)-phenyl]-2,3-difluoro-4-(1-propynyl)-benzene | 2.04 g | C(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=C(C=C1)C#CC)F)F | C26H24F2
